US07018988B2
(2S)-N-(9-ethyl-9H-carbazol-3-yl)-4-methylene-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 70% purity by LC/MS. MS(ESI+): m/z=512.4.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S)-N-(9-ethyl-9H-carbazol-3-yl)-4-methylene-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(=O)[C@H]1N(CC(C1)=C)C(=O)C=1C(OC(=CC1)CCCCC)=O | C31H33N3O4
